US06541499B1
E. N1-[3-Methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-1,2-benzenediamine
The title compound was prepared by the addition of Adam's catalyst (160 mg, 10% wt.) to a degassed solution of N-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-nitroaniline (1.6 g, 4.69 mmol) in absolute ethanol (25 mL). The atmosphere was replaced with hydrogen then the reaction was stirred vigourously at ambient temperature until all of the nitro compound had been consumed as determined by tlc (9:1 CHCl3:MeOH, 1% TEA). The reaction mixture was filtered through a bed of diatomaceous earth, then the solvent was removed under reduced pressure to give the diamine as a brown yellow oil (1.46 g, 100%).

reactant | N-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-nitroaniline | 4.69 mmol, 1.6 g | COC=1C=C(CNC2=C(C=CC=C2)[N+](=O)[O-])C=CC1CN1CCCC1 | C19H23N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Adam's catalyst | 160 mg | O=[Pt]=O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N1-[3-Methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-1,2-benzenediamine | COC=1C=C(CNC=2C(=CC=CC2)N)C=CC1CN1CCCC1 | C19H25N3O
